US07531532B2
4-(4-Amino-2-fluorophenoxy)-2-{[4-(4-hydroxypiperidin-1-yl)piperidin-1-yl]carbonylamino}pyridine
4-(2-Fluoro-4-nitrophenoxy)-2-{[4-(4-hydroxypiperidin-1-yl)piperidin-1-yl]carbonylamino}pyridine (168 mg) was dissolved in tetrahydrofuran (20 ml). After adding 20% palladium hydroxide-carbon (103 mg), the mixture was stirred overnight under a hydrogen atmosphere. The catalyst was filtered and washed with tetrahydrofuran. The filtrate and the washings were combined and concentrated under reduced pressure, and the resultant residue was dried under reduced pressure to provide the title compound (164 mg) as pale yellow powder.

reactant | 4-(2-Fluoro-4-nitrophenoxy)-2-{[4-(4-hydroxypiperidin-1-yl)piperidin-1-yl]carbonylamino}pyridine | 168 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCC(CC2)O)C=CC(=C1)[N+](=O)[O-] | C22H26FN5O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 103 mg | [OH-].[Pd+2].[OH-].[C]
product | 4-(4-Amino-2-fluorophenoxy)-2-{[4-(4-hydroxypiperidin-1-yl)piperidin-1-yl]carbonylamino}pyridine | 164 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCC(CC2)O)C=C1)F | C22H28FN5O3
